US04868339
Dimethylaluminum chloride (3 mL of a 1M hexane solution) was reacted with a solution of 1,3,3,5,5-pentamethyl-4-(1-methylenethenyl)-1-cyclohexene (0.48 g, 0.0025 mol) and isobutyraldehyde (0.18 g, 0.0025 mol) in dichloromethane (10 mL) according to the procedure described in Example 3. Work-up and chromatography gave 0.300 g (45% yield) of α-(1-methylethyl)-2,2,4,6,6-pentamethyl-γ-methylene-3-cyclohexene-1-propanol, bp (kugelrohr bath) 135° C., 0.5 mm (GLC purity 94.4%, 2:1 mixture of diastereomers). 1H-NMR (60 MHz, CDCl3) δ0.88-1.07 (18H, 1d and 1 broad s), 1.4-2.4 (10H, m), 3.2-3.7 (1H, m) 4.9-5.2 (3H, m); IR (film) vmax 3450, 2950, 1640, 1465, 1380, 1360 cm-1 ; MS m/e 264, 249, 246, 221, 203, 177, 107, 96. The mass spectra of the diastereomers were nearly identical.

reactant | Dimethylaluminum chloride | [Cl-].C[Al+]C
reactant | hexane | 1M | CCCCCC | C6H14
reactant | 1,3,3,5,5-pentamethyl-4-(1-methylenethenyl)-1-cyclohexene | 0.0025 mol, 0.48 g | CC1=CC(C(C(C1)(C)C)CC1=CC=CS1=C)(C)C | C17H26S
reactant | isobutyraldehyde | 0.0025 mol, 0.18 g | C(C(C)C)=O | C4H8O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | α-(1-methylethyl)-2,2,4,6,6-pentamethyl-γ-methylene-3-cyclohexene-1-propanol | 0.300 g, 45% yield | CC(C)C(CC(C1C(C=C(CC1(C)C)C)(C)C)=C)O | C18H32O
